US05455273
h) trans-N-isopropyl-4-phenylcyclohexylamine
from 4-phenylcyclohexanone and isopropylamine. Melting point: 61°-63° C.

reactant | 4-phenylcyclohexanone | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | isopropylamine | C(C)(C)N | C3H9N
product | trans-N-isopropyl-4-phenylcyclohexylamine | C(C)(C)N[C@@H]1CC[C@H](CC1)C1=CC=CC=C1 | C15H23N
